US07531545B2
A solution of 4-{(2-benzyloxy-ethyl)-[4-tert-butoxycarbonylamino-4-(S)-(tetrahydro-pyran-4-yl)-butyryl]-amino}-cis-cyclohexanecarboxylic acid benzyl ester (4.8 g, 7.5 mmol) in TFA (5% in CH2Cl2, 100 mL) was stirred at room temperature overnight. The solvent and most of the TFA was evaporated, and EtOAc (300 mL) was added to the residue. The solution was washed with aq. NaHCO3 and aq. NaCl. The organic layer was dried with MgSO4 and evaporated to yield 4-[[4-amino-4-(S)-(tetrahydro-pyran-4-yl)-butyryl]-(2-benzyloxy-ethyl)-amino]-cis-cyclohexanecarboxylic acid benzyl ester as a light brown oil.

reactant | 4-{(2-benzyloxy-ethyl)-[4-tert-butoxycarbonylamino-4-(S)-(tetrahydro-pyran-4-yl)-butyryl]-amino}-cis-cyclohexanecarboxylic acid benzyl ester | 7.5 mmol, 4.8 g | C(C1=CC=CC=C1)OC(=O)[C@@H]1CC[C@@H](CC1)N(C(CC[C@@H](C1CCOCC1)NC(=O)OC(C)(C)C)=O)CCOCC1=CC=CC=C1 | C37H52N2O7
solvent | TFA | 100 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 4-[[4-amino-4-(S)-(tetrahydro-pyran-4-yl)-butyryl]-(2-benzyloxy-ethyl)-amino]-cis-cyclohexanecarboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)[C@@H]1CC[C@@H](CC1)N(CCOCC1=CC=CC=C1)C(CC[C@@H](C1CCOCC1)N)=O | C32H44N2O5
